US06084095
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (261 mg, 1.36 mmole) and 4-bromoaniline (1.00 g, 5.81 mmole) is stirred under N2 at 200° C. for 15 min. The resulting product is chromatographed on silica gel (10-15% EtOH/EtOAc) to give 7-amino-4-(4-bromoanilino)pyrido[4,3-d]pyrimidine (200 mg, 46%) as a pale yellow solid. 1H NMR (DMSO) δ 9.88 (1H, brs), 9.34 (1H, s), 8.40 (1H, s), 7.83 (2H, d, J=8.8 Hz, 7.55 (2H, d, J=8.8 Hz), 6.64 (2H, brs), 6.44 (1H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.36 mmole, 261 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 4-bromoaniline | 5.81 mmole, 1.00 g | BrC1=CC=C(N)C=C1 | C6H6BrN
product | 7-amino-4-(4-bromoanilino)pyrido[4,3-d]pyrimidine | 200 mg, 46% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC=C(C=C1)Br | C13H10BrN5
